Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:4]([H:5])(=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2][O:3]>>[H:1][O:2][O:3][C@@:4]([H:5])([C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-0.29142454077
[C:1]#[C:2][O:3]/[C:4]=[C:5](\[H:6])[O:7][H:8]>>[C:1]#[C:2].[O:3]=[C:4]=[C:5]([H:6])[O:7][H:8],1.4248863658700002
[H:1][C:2]([H:3])[O:4][C:5]/[C:6]([H:7])=[C:9]/[C:10]([H:11])([H:12])[H:13].[H:8]>>[H:1][C:2]([H:3])[O:4][C:5][C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13],-1.40736643444
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][O:11][H:12]>>[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][O:11][H:12].[H:1][O:2],6.39610822706
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3]([H:4])=[C:5][H:6],5.14741845409
[H:1][C:2][C:3]([H:4])([H:5])[C:6][O:7][C:8]([H:9])([H:10])[H:11]>>[C:8]([H:9])([H:10])[H:11].[H:1][C:2][C:3]([H:4])([H:5])[C:6]=[O:7],0.717635365909
[H:1].[O:2]=[C:3][O:4][C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[H:12]>>[H:1][O:2][C:3][O:4][C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[H:12],-2.43550441858
[O:1][O:2][C:3]([H:4])=[C:5]([H:6])[H:7]>>[C:3]([H:4])=[C:5]([H:6])[H:7].[O:1]=[O:2],2.0565906861500003
[H:1][C:2][O:3][C:4]([O:5][C:6][H:7])[C:9]([H:10])([H:11])[H:12].[H:8]>>[H:1][C:2][O:3][C:4]([O:5][C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-4.41711255732
[C:1]=[C:2]([H:3])[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:1]#[C:2][H:3].[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],3.6643632414
[H:1][O:2][C:3][O:4]/[C:5]([H:6])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13].[H:7]>>[H:1][O:2][C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13],-1.82517558342
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:12].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11][C:13]([H:14])([H:15])[H:16],4.83908750101
[C:1].[O:2]=[C:3]([H:4])[C:5]([H:6])=[C:7][H:8]>>[C:1][O:2][C:3]([H:4])[C:5]([H:6])=[C:7][H:8],-2.33362511729
[C:6]([H:7])([H:8])=[C:9]([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2]#[C:3][O:4][H:5]>>[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[C:11]([H:12])([H:13])[H:14],0.8971184908100001
[H:1].[O:2]=[C:3]=[C:4]([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2]/[C:3]=[C:4](\[O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-1.45955916912
[H:1][C:2]([H:3])[C@:4]([H:5])([C:6]#[C:7][H:8])[C:10]([H:11])=[C:12]([H:13])[H:14].[H:9]>>[H:1][C:2]([H:3])[C@@:4]([H:5])([C:6]=[C:7]([H:8])[H:9])[C:10]([H:11])=[C:12]([H:13])[H:14],-2.01218828664
[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])([H:9])[C:10]>>[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14],-4.04233701847
[O:1]([C:2]([C:3]([H:4])([H:8])[H:10])[H:9])[H:6].[O:5]=[C:7]>>[O:1]=[C:2][C@@:3]([H:4])([O:5][H:6])[C:7]([H:8])([H:9])[H:10],-0.440103769991
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[O:14][H:15]>>[C:7]([H:8])([H:9])[H:10].[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:11]([H:12])([H:13])[O:14][H:15],4.50676553979
[H:1][C:2]=[C:10](/[C:8](=[C:6](/[C:4](=[O:3])[H:5])[H:7])[H:9])[H:11]>>[H:1][C:2]1[O:3][C:4]([H:5])=[C:6]([H:7])[C:8]([H:9])=[C:10]1[H:11],-1.83912974564
[O:1][C@@:2]([O:3][H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:5]([H:6])([H:7])[H:8].[O:1]=[C:2]([O:3][H:4])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-0.0961932161394999
[H:3].[O:1]=[C:2]=[C:4]([H:5])[C:6]([H:7])([H:8])[O:9][H:10]>>[O:1]=[C:2]([H:3])[C:4]([H:5])[C:6]([H:7])([H:8])[O:9][H:10],-2.13373663873
[H:1][C:2]([H:3])[C:4](=[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[C:4](=[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:1][C:2][H:3],5.535026548119999
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C@@:7]([H:8])([C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:3]([H:4])=[C:5]([H:6])[C@:7]([H:8])([C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2],6.052972651
[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]=[C:10]([H:11])[H:12]>>[C:10]([H:11])[H:12].[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9],7.623255427030001
[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])[H:7])[C:8]([H:9])=[C:10]=[C:11]([H:12])[H:13]>>[C:8]([H:9])#[C:10][C:11]([H:12])[H:13].[H:1][O:2][C:3]([H:4])=[C:5]([H:6])[H:7],0.7049158614390001
[C:8]([H:9])[H:10].[H:1][O:2][C:3]#[C:4][C:5]([H:6])=[O:7]>>[H:1][O:2][C:3]#[C:4][C:5]([H:6])[O:7][C:8]([H:9])[H:10],-2.62955870025
[H:1][C:2]([H:3])([H:4])[O:5][C:6][C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:13]([H:14])([H:15])[H:16].[H:1][C:2]([H:3])([H:4])[O:5]/[C:6]=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12],2.6474836286000003
